US07173031B2
C) N1-(3-Fluoro-4-(pyrrolo[2,1-f][1,2,4]triazin-4-yloxy)phenyl)-N3-phenylmalonamide
A solution of 3-(3-fluoro-4-(pyrrolo[2,1-f][1,2,4]triazin-4-yloxy)phenylamino)-3-oxopropanoic acid (17 mg, 0.052 mmol), BOP reagent (34 mg, 0.077 mmol), 4-methylmorpholine (28 μL, 0.26 mmol), and aniline (4.7 μL, 0.052 mmol) in dimethylformamide (0.5 mL) was stirred at room temperature for 16 h. The reaction was diluted with EtOAc (4 mL) and washed with water, 10% aq LiCl solution, and brine (1×3 mL each). The organic solution was dried over anhydrous Na2SO4 and then concentrated in vacuo. Purification by flash chromatography on silica gel (SiO2, EtOAc/Hexane 7:3) gave the desired compound as a white solid. The product was lyophilized with acetonitrile/water to give the title compound (12 mg, 57%) as a white powder. 1H NMR (CDCl3) δ 9.23 (br s, 1H), 8.22 (br s, 1H), 7.90 (s, 1H), 7.72 (m, 1H), 7.46 (d, 1H, J=8.2 Hz), 7.20 (m, 7H), 6.95 (m, 1H), 6.78 (m, 1H), 3.47 (s, 2H); MS(ESI+) m/z 406.1 (M+H)+.

reactant | 3-(3-fluoro-4-(pyrrolo[2,1-f][1,2,4]triazin-4-yloxy)phenylamino)-3-oxopropanoic acid | 0.052 mmol, 17 mg | FC=1C=C(C=CC1OC1=NC=NN2C1=CC=C2)NC(CC(=O)O)=O | C15H11FN4O4
reactant | BOP reagent | 0.077 mmol, 34 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.26 mmol, 28 μL | CN1CCOCC1 | C5H11NO
reactant | aniline | 0.052 mmol, 4.7 μL | NC1=CC=CC=C1 | C6H7N
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
product | N1-(3-Fluoro-4-(pyrrolo[2,1-f][1,2,4]triazin-4-yloxy)phenyl)-N3-phenylmalonamide | FC=1C=C(C=CC1OC1=NC=NN2C1=CC=C2)NC(CC(=O)NC2=CC=CC=C2)=O | C21H16FN5O3
